US04872901
1,3-Dimethyl-4-ethoxycarbonyl-5-methylthiopyrazole
In 50 ml of acetonitrile is dissolved 7.5 g of ethyl 2-acetyl-3,3-bis(methylthio)acrylate. To the solution is added dropwise, while stirring at room temperature (15° C.), 1.8 g of methyl hydrazine over a period of 10 minutes, followed by heating for 7 hours under reflux. After completion of the reaction, the solvent is distilled off under reduced pressure. The residue is purified by means of silica gel column chromatography (eluent, n-hexane:ethyl acetate =4/1 to 2/1) to give 4.1 g of the title compound as an oil.

reactant | ethyl 2-acetyl-3,3-bis(methylthio)acrylate | 7.5 g | C(C)(=O)C(C(=O)OCC)=C(SC)SC | C9H14O3S2
reactant | methyl hydrazine | 1.8 g | CNN | CH6N2
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 1,3-Dimethyl-4-ethoxycarbonyl-5-methylthiopyrazole | 4.1 g | CN1N=C(C(=C1SC)C(=O)OCC)C | C9H14N2O2S
